US07041685B2
3-(3-Bromo-thiophen-2-yl)-5-(4-chloro-phenyl)-[1,2,4]-oxadiazole
3-Bromo-thiophene-2-amidoxime: The title compound was prepared from 3-bromo-2-cyano-thiophene (564 mg, 3.00 mmol) and 0.576 M hydroxylamine hydrochloride in 95% ethanol (5.8 mL, 3.3 mmol) similar to Example 36c, and yielded 383 mg (58%) of white solid. 1H NMR (Acetone-d6): 9.18 (s, 1H), 7.51 (d, J=5.50 Hz, 1H), 7.06 (d, J=5.22 Hz, 1H), 5.59 (s, 2H).

reactant | 3-Bromo-thiophene-2-amidoxime | BrC1=C(SC=C1)C(N)=NO | C5H5BrN2OS
reactant | 3-bromo-2-cyano-thiophene | 3.00 mmol, 564 mg | BrC1=C(SC=C1)C#N | C5H2BrNS
reactant | hydroxylamine hydrochloride | 0.576 M | Cl.NO
reactant | ethanol | 3.3 mmol, 5.8 mL | C(C)O | C2H6O
product | 3-(3-Bromo-thiophen-2-yl)-5-(4-chloro-phenyl)-[1,2,4]-oxadiazole | BrC1=C(SC=C1)C1=NOC(=N1)C1=CC=C(C=C1)Cl | C12H6BrClN2OS
